US07208526B2
4-Bromo-2-chloro-benzoic acid (0.64 g, 2.7 mmol) and DMF (50 μl) were added to dichloromethane (9 ml). Oxalyl chloride (0.47 ml, 5.4 mmol) was then added to the mixture and the resultant solution stirred at room temperature for 2 hours. The reaction was monitored to completion by LC-MS. The reaction was concentrated in vacuo to afford crude 4-bromo-2-chloro-benzoyl chloride.

reactant | 4-Bromo-2-chloro-benzoic acid | 2.7 mmol, 0.64 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | DMF | 50 μl | CN(C)C=O | C3H7NO
reactant | Oxalyl chloride | 5.4 mmol, 0.47 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
product | 4-bromo-2-chloro-benzoyl chloride | BrC1=CC(=C(C(=O)Cl)C=C1)Cl | C7H3BrCl2O
